US05198014
To a stirred suspension of 7.6 grams (0.02 mole) of N-[4-(dimethylamino)phenyl]-a-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]nitrone in 300 mL of ethyl acetate was added 400 mL of aqueous 6N hydrochloric acid, at which time all of the solid material dissolved. The aqueous layer was separated and extracted with one portion of ethyl acetate. An aqueous solution saturated with sodium chloride was added to the aqueous layer, and the mixture was extracted several more times with ethyl acetate. The ethyl acetate extracts were combined with the organic layer, and the combination was washed with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was cooled and triturated with heptane, yielding 2.5 grams of 4-cyano-5-formyl-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole. The nmr spectrum was consistent with the proposed structure. (The compounds of Steps E, F, and G were prepared by the method of E. C. Taylor et al., J. Org. Chem., 43, 4, 736 (1978).)

reactant | N-[4-(dimethylamino)phenyl]-a-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]nitrone | 0.02 mole, 7.6 grams | CN(C1=CC=C(C=C1)[N+](=CC1=C(C=NN1C1=NC=C(C=C1Cl)C(F)(F)F)C#N)[O-])C | C19H14ClF3N6O
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyano-5-formyl-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazole | 2.5 grams | C(#N)C=1C=NN(C1C=O)C1=NC=C(C=C1Cl)C(F)(F)F | C11H4ClF3N4O
